US09107916B2
B. 2-[3-[(4-fluoro-2-methylphenyl)methyl]-5-hydroxypyrazol-1-yl]pyridine-4-carbonitrile
The title compound was prepared from 2-hydrazinylpyridine-4-carbonitrile (PREPARATION 2) and methyl 4-(4-fluoro-2-methylphenyl)-3-oxobutanoate according to the procedure for the preparation of Example 158, part A.

reactant | 2-hydrazinylpyridine-4-carbonitrile | N(N)C1=NC=CC(=C1)C#N | C6H6N4
reactant | methyl 4-(4-fluoro-2-methylphenyl)-3-oxobutanoate | FC1=CC(=C(C=C1)CC(CC(=O)OC)=O)C | C12H13FO3
product | 2-[3-[(4-fluoro-2-methylphenyl)methyl]-5-hydroxypyrazol-1-yl]pyridine-4-carbonitrile | FC1=CC(=C(C=C1)CC1=NN(C(=C1)O)C1=NC=CC(=C1)C#N)C | C17H13FN4O
